MM9 (VOUT1 net12 VSS VSS) nmos4
MM8 (net12 net12 VSS VSS) nmos4
MM7 (VOUT1 VIN2 net10 net14) pmos4
MM6 (net12 VIN1 net10 net14) pmos4
MM5 (net10 net1004 VDD VDD) pmos4
MM0 (net1004 VB1 VSS VSS) nmos4
MM8 (VB1 VB1 VSS VSS) nmos4
MM3 (net1004 net1004 VDD VDD) pmos4
MM10 (VB1 net1006 VDD VDD) pmos4
MM11 (net023 net024 VB2 VSS) nmos4
MM8 (net025 net010 net023 VSS) nmos4
MM9 (net024 net024 net023 VSS) nmos4
MM7 (net010 net010 net025 VSS) nmos4
MM2 (VB2 VB2 VSS VSS) nmos4
MM0 (net1006 net025 VSS VSS) nmos4
MM10 (net024 net1006 VDD VDD) pmos4
MM4 (net010 net1006 VDD VDD) pmos4
MM3 (VB2 net1006 VDD VDD) pmos4
MM1 (net1006 net1006 VDD VDD) pmos4